US08071588B2
N-[(3-bromophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide
To 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid (1 g, 2.57 mmol) was added [(3-bromophenyl)methyl]amine 1-(3-bromophenyl)methanamine (0.478 g, 2.57 mmol) followed by HBTU (1.169 g, 3.08 mmol) and TEA (0.716 mL, 5.14 mmol) in dichloromethane (DCM) (25.7 mL). The reaction mixture was stirred at room temperature overnight. Then, the reaction was quenched by H2O (5 mL) and the solvent was removed by Glas-Col to afford 1.356 g (95%) of the title compound. LC-MS M+ 557.

reactant | 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid | 2.57 mmol, 1 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)O)=O)CC | C19H27N5O4
reactant | [(3-bromophenyl)methyl]amine 1-(3-bromophenyl)methanamine | 2.57 mmol, 0.478 g | BrC=1C=C(C=CC1)CN.BrC=1C=C(C=CC1)CN | 2C7H8BrN
reactant | HBTU | 3.08 mmol, 1.169 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 25.7 mL | ClCCl | CH2Cl2
product | N-[(3-bromophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 1.356 g, 95% | BrC=1C=C(C=CC1)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C26H33BrN6O3
